US06930208B2
1.00 g (2.60 mmol) of ethyl 2,4-dibromo-3-(methylcarbonylmethoxy)benzoate (prepared from ethyl 2,4-dibromo-3-hydroxybenzoate and chloroacetone analogously to preparation a), step 1, above) and 0.614 g (5.80 mmol) of Na2CO3 were initially charged in 10 ml of methanol. 0.529 g (5.30 mmol) of O-ethyl hydroxylamine hydrochloride, dissolved in 12 ml of water, was added dropwise and the mixture was stirred at RT for 2 h. The mixture was then poured into water and extracted with diethyl ether. The combined organic phases were washed with water, dried over Na2SO4 and evaporated to dryness. Drying under oil pump vacuum gave ethyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoate as a brown oil.

reactant | ethyl 2,4-dibromo-3-(methylcarbonylmethoxy)benzoate | 2.60 mmol, 1.00 g | BrC1=C(C(=O)OCC)C=CC(=C1OCC(=O)C)Br | C12H12Br2O4
reactant | ethyl 2,4-dibromo-3-hydroxybenzoate | BrC1=C(C(=O)OCC)C=CC(=C1O)Br | C9H8Br2O3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | Na2CO3 | 5.80 mmol, 0.614 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | O-ethyl hydroxylamine hydrochloride | 5.30 mmol, 0.529 g | Cl.C(C)ON
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 12 ml | O | H2O
product | ethyl 2,4-dibromo-3-(2-ethoxyiminopropyloxy)benzoate | BrC1=C(C(=O)OCC)C=CC(=C1OCC(C)=NOCC)Br | C14H17Br2NO4
